US08404649B2
Preparation 50: 4-Methyl-naphthalene-1-carboxylic acid methyl ester
To a stirred solution of 4-methyl-naphthalene-1-carboxylic acid (10 g, 53.70 mmol) in dry DMF (50 mL) was added potassium carbonate (11.14 g, 80.55 mmol) at room temperature. Resulting reaction mixture was stirred for 30 minutes at room temperature. Then reaction mixture was cooled to 0° C. and methyl iodide (11.44 g, 3.04 mL, 80.55 mmol) was added dropwise. Resulting reaction mixture was stirred for 3 hours at room temperature. Progress of reaction was monitored by TLC using 10% EtOAc in hexane. Rf of new spot and stating material was 0.7 and 0.1, respectively. After consumption of starting material, reaction mixture was quenched with ice cold water (150 mL) and extracted with EtOAc (2×150 mL). Combined organic layer was washed with water (300 mL), brine (200 mL) and dried over sodium sulphate. Organic layer was evaporated in vacuo to afford orange colored thick oil. Crude compound was purified by column chromatography using 100-200 mesh silica gel. Desired compound was eluted in 9% in EtOAc in hexane to afford colorless liquid (10.85 g, 99%). 1H NMR (400 MHz, CDCl3) δ: 2.73 (s, 3H), 3.98 (S, 3H), 7.34 (d, J=7.4 Hz, 1H), 7.54-7.63 (m, 2H), 8.04 (d, J=7.92 Hz, 1H), 8.08 (d, J=7.44 Hz, 1H), 8.95 (d, J=8.12 Hz, 1H); LC-MS (m/z): =201.10 (M+H).

reactant | 4-methyl-naphthalene-1-carboxylic acid | 53.70 mmol, 10 g | CC1=CC=C(C2=CC=CC=C12)C(=O)O | C12H10O2
reactant | potassium carbonate | 80.55 mmol, 11.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 80.55 mmol, 3.04 mL, 11.44 g | CI | CH3I
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | 4-Methyl-naphthalene-1-carboxylic acid methyl ester | 10.85 g, 99% | COC(=O)C1=CC=C(C2=CC=CC=C12)C | C13H12O2
